US08389550B2
N-(2-Hydroxy-ethyl)-6-[(E)-2-(5-methyl-3-phenyl-isoxazol-4-yl)-vinyl]-nicotinamide
To a stirred solution of 6-[(E)-2-(5-methyl-3-phenyl-isoxazol-4-yl)-vinyl]-nicotinic acid methyl ester (200 mg, 0.62 mmol) in toluene (0.5 mL) was added ethanolamine (46 mg, 0.75 mmol) and TBD (26 mg, 0.10 mmol), then the reaction mixture was warmed to 35° C. After 3 h the reaction mixture was concentrated. Purification by chromatography (silica, dichloromethane:methanol 100:0 to 93:7) afforded the title compound (155 mg, 71%) as a white solid after trituration with hexane/ethyl acetate. MS: m/e=350.4 [M+H]+.

reactant | 6-[(E)-2-(5-methyl-3-phenyl-isoxazol-4-yl)-vinyl]-nicotinic acid methyl ester | 0.62 mmol, 200 mg | COC(C1=CN=C(C=C1)\C=C\C=1C(=NOC1C)C1=CC=CC=C1)=O | C19H16N2O3
reactant | ethanolamine | 0.75 mmol, 46 mg | C(O)CN | C2H7NO
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-Hydroxy-ethyl)-6-[(E)-2-(5-methyl-3-phenyl-isoxazol-4-yl)-vinyl]-nicotinamide | 155 mg, 71% | OCCNC(C1=CN=C(C=C1)\C=C\C=1C(=NOC1C)C1=CC=CC=C1)=O | C20H19N3O3
